US04497821
2,6-Dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylic acid monoisopropyl ester
1 g (2.5 mmols) of diisopropyl 2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate was heated under reflux for 5 hours in a solution of 140 mg (2.5 mmols) of potassium hydroxide in 10 ml of ethanol and 1 ml of water. After cooling down, the mixture was evaporated to dryness, the residue was taken up in water and extracted several times with chloroform. The aqueous phase was adjusted to pH 3 to 4 with dilute hydrochloric acid, the precipitated product was filtered off with suction and dissolved again with saturated sodium bicarbonate solution. After adding a little animal charcoal, the mixture was filtered and the filtrate was adjusted to pH 3 to 4 with dilute hydrochloric acid. The precipitated product was filtered off with suction and dried in vacuo.

reactant | diisopropyl 2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 2.5 mmols, 1 g | CC1=NC(=C(C(=C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C21H24N2O6
reactant | potassium hydroxide | 2.5 mmols, 140 mg | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 2,6-Dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylic acid monoisopropyl ester | C(C)(C)OC(=O)C=1C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C18H18N2O6
